US07153875B2
To a stirred solution of 2,4-thiazolidinedione (0.094 g, 0.80 mmol) in 4.0 mL of anhydrous THF at −78° C. under argon was added n-BuLi (0.58 mL of 2.5 M in hexanes). After 20 minutes, the reaction mixture was allowed to warm to 0° C. for 30 minutes then cooled to −78° C. To this mixture was added 6-[3-(1-adamantyl)-4-methoxyphenyl]-naphthalen-2-yl-methyliodide (0.177 g, 0.35 mmol) in 3 mL anhydrous THF and stirred at −78° C. for 30 minutes. The reaction mixture was warmed to room temperature. After 14 hours, the reaction mixture was diluted with water and extracted with EtOAc (2×50 mL). The combined organics were washed with water (100 mL), sat. NH4Cl (100 mL), brine (100 mL), dried over anhydrous magnesium sulfate, filtered and evaporated. The residue was purified on silica gel (eluent: hexane:EtOAc 4:1) to give 0.097 g of 6-[3-(1-adamantyl)-4-methoxyphenyl]-naphthalen-2-yl-methyl-2,4-thiazolidinedione (56%), mp 251–253° C. 1H NMR (300 MHz; DMSO-d6): δ 1.80 (brs, 6H), 2.10–2.18 (m, 9H), 3.32 (dd, J=9.6 Hz, J=14.1 Hz, 1H), 3.72 (dd, J=3.6 Hz, J=14.1 Hz, 1H), 3.90 (s, 3H), 4.65 (dd, J=3.6 Hz, J=9.9 Hz, 1H), 6.99 (d, J=8.1 Hz, 1H), 7.36 (dd, J=1.5 Hz, J=8.4 Hz, 1H), 7.52 (dd, J=1.8 Hz, J=8.7 Hz, 1H), 7.57 (d, J=2.1 Hz, 1H), 7.70–7.76 (m, 2H), 7.84 (d, J=3.3 Hz, 1H), 7.87 (d, J=3.6 Hz, 1H), 7.96 (d, J=0.3 Hz, 1H), 8.13 (brs, 1H). 13C NMR (75 MHz; DMSO-d6): 38.4, 46.6, 47.4, 62.7, 65.3, 122.6, 134.0, 134.7, 135.3, 137.3, 137.6, 137.9, 138.1, 141.5, 141.8, 142.3, 144.1, 147.7, 147.8, 168.1, 181.4, 185.5.

reactant | 2,4-thiazolidinedione | 0.80 mmol, 0.094 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | n-BuLi | 2.5 M, 0.58 mL | [Li]CCCC
reactant | 6-[3-(1-adamantyl)-4-methoxyphenyl]-naphthalen-2-yl-methyliodide | 0.35 mmol, 0.177 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)C=2C=C3C=CC(=CC3=CC2)CI | C28H29IO
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 6-[3-(1-adamantyl)-4-methoxyphenyl]-naphthalen-2-yl-methyl-2,4-thiazolidinedione | 0.097 g, 56% | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)C=2C=C3C=CC(=CC3=CC2)C2C(N(C(S2)=O)C)=O | C31H31NO3S
